US04021554
1-Allylpiperazine (6.3 g.) is added to a suspension of 6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-5-phenoxycarbonyloxy-2,3,6,7-tetrahydro-5H-1,4-oxathiino[2,3-c]pyrrole (4.56 g.) in acetonitrile (25 cc.). The temperature of the reaction mixture rises to about 25° C. After 29 hours, diisopropyl ether (50 cc.) is added and the insoluble product is filtered off and washed with diisopropyl ether (2 × 15 cc.). After drying, 5-(4-allylpiperazine-1-yl)carbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-2,3,6,7-tetrahydro-5H-1,4-oxathiino[2,3-c]pyrrole (3.1 g.), melting at 254° C., is obtained.

reactant | 1-Allylpiperazine | 6.3 g | C(C=C)N1CCNCC1 | C7H14N2
reactant | 6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-5-phenoxycarbonyloxy-2,3,6,7-tetrahydro-5H-1,4-oxathiino[2,3-c]pyrrole | 4.56 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=C(C1OC(=O)OC1=CC=CC=C1)SCCO2)=O | C21H14ClN3O5S
reactant | diisopropyl ether | 50 cc | C(C)(C)OC(C)C | C6H14O
solvent | acetonitrile | 25 cc | C(C)#N | C2H3N
product | 5-(4-allylpiperazine-1-yl)carbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-2,3,6,7-tetrahydro-5H-1,4-oxathiino[2,3-c]pyrrole | 3.1 g | C(C=C)N1CCN(CC1)C(=O)OC1C2=C(C(N1C1=NC3=NC(=CC=C3C=C1)Cl)=O)OCCS2 | C22H22ClN5O4S
